US06884808B2
α-(1-tert-Butyl-5-isopropylpyrazol-3-yl)-4-(4,4-dimethyl-1,3-oxazolin-2-yl)benzyl alcohol
To 5 ml of 130 mg of α-(1-tert-butyl-5-isopropylpyrazol-3-yl)-4-(4,4-dimethyl-1,3-oxazolin-2-yl)styrene in ethanol was added 0.4 ml of a 3N aqueous solution of an acid at room temperature. The resulting mixture was heated under reflux for 30 minutes. To the reaction mixture was added a 5N aqueous solution of sodium hydroxide to adjust its pH to 11, followed by extraction with dichloromethane. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To a solution of the residue in 3 ml of 1,4-dioxane were added 100 mg of lithium hydroxide and the resulting mixture was heated at 100° C. for 2 hours. After the completion of the reaction, a 3N aqueous solution of hydrochloric acid was added to adjust the pH to 5, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue so obtained was subjected to chromatography on a silica gel column (developing solvent: 50% dichloromethane/ethyl acetate), whereby 4 mg of the title compound were obtained as a pale yellow solid.

reactant | α-(1-tert-butyl-5-isopropylpyrazol-3-yl)-4-(4,4-dimethyl-1,3-oxazolin-2-yl)styrene | 5 ml, 130 mg | C(C)(C)(C)N1N=C(C=C1C(C)C)C(=C)C1=CC=C(C=C1)C=1OCC(N1)(C)C | C23H31N3O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
solvent | ethanol | C(C)O | C2H6O
product | α-(1-tert-Butyl-5-isopropylpyrazol-3-yl)-4-(4,4-dimethyl-1,3-oxazolin-2-yl)benzyl alcohol | 4 mg | C(C)(C)(C)N1N=C(C=C1C(C)C)C(C1=CC=C(C=C1)C=1OCC(N1)(C)C)O | C22H31N3O2
